US06867198B2
3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-[7-(3-(triisopropylsilyloxy)prop-1-yl)-1H-indol-3-yl]pyrrole-2,5-dione
Beginning with 7-((triisopropylsilyloxy)propyl)indole-3-glyoxylic acid methyl ester and 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide, the title compound was prepared essentially as described in Example 1.

reactant | 7-((triisopropylsilyloxy)propyl)indole-3-glyoxylic acid methyl ester | COC(C(=O)C1=CNC2=C(C=CC=C12)CCCO[Si](C(C)C)(C(C)C)C(C)C)=O | C23H35NO4Si
reactant | 2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetamide | C1(=CN2CCCC3=CC=CC1=C23)CC(=O)N | C13H14N2O
product | 3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-[7-(3-(triisopropylsilyloxy)prop-1-yl)-1H-indol-3-yl]pyrrole-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CNC3=C(C=CC=C23)CCCO[Si](C(C)C)(C(C)C)C(C)C)=O)=O | C35H43N3O3Si
